US03988370
Proceeding in a manner similar to that described above in part A of Example 18, and using 3.44 g. of sodium, 30.9 g. of n-heptylguanidine sulfate, and 19.1 g. of n-hexyl isocyanate, there was obtained 26.2 g. of 1-n-heptylamidino-3-n-hexylurea having the structural formula ##EQU63## as a white crystalline solid which melted at 68°-72°C. The solubility of this base in a dilute acidic solution (prepared by mixing 0.36 ml. of N/2 hydrochloric acid and 9.64 ml. of water) at 25°C. was less than 0.25 per cent. In 95 per cent ethyl alcohol at 25°C. it was soluble to the extent of 5 per cent (w/v); a precipitate formed when the 5 per cent alcoholic solution was diluted with four volumes of water.

reactant | sodium | [Na] | Na
reactant | n-heptylguanidine sulfate | S(=O)(=O)(O)O.C(CCCCCC)NC(=N)N
product | n-hexyl isocyanate | C(CCCCC)N=C=O | C7H13NO
